data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2015,2238,[CH3:16][NH:17][C:18](=[O:19])[C-:20]([C:21](=[O:22])[NH:23][CH3:24])[N+:25]([CH3:26])=[C:27]([CH3:28])[CH3:29].[F:1][C:2]([F:3])([F:4])[C:5]1=[C:6]([C:7]([F:8])([F:9])[F:10])[CH:11]2[CH:12]=[CH:13][CH:14]1[O:15]2>>[F:1][C:2]([F:3])([F:4])[C:5]12[C:6]([C:7]([F:8])([F:9])[F:10])([CH:11]3[CH:12]=[CH:13][CH:14]1[O:15]3)[C:20]([C:18]([NH:17][CH3:16])=[O:19])([C:21](=[O:22])[NH:23][CH3:24])[N:25]([CH3:26])[C:27]2([CH3:28])[CH3:29],water,298.15,34.96593427779217,-3.6230062890044414
4805,5484,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C:15]([CH3:16])=[NH+:17][C-:18]([C:19]#[N:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:15]([C:13]([NH:12][CH3:11])=[O:14])([CH3:16])[NH:17][C:18]2([C:19]#[N:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1,water,298.15,30.27921618372697,-4.54505279784279
5174,5872,[CH3:10][NH:11][C:12](=[O:13])[C:14](=[NH+:15][C-:16]([C:17](=[O:18])[O:19][CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[C:27](=[O:28])[O:29][CH3:30].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:14]([C:12]([NH:11][CH3:10])=[O:13])([C:27](=[O:28])[O:29][CH3:30])[NH:15][C:16]1([C:17](=[O:18])[O:19][CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1,water,298.15,23.29857813368757,-8.440840634915897
4894,5578,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][C:8](=[O:9])[C:10]([c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1)=[N+:17]([CH3:18])[C-:19]([C:20]#[N:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:19]([C:20]#[N:21])([c:22]2[cH:23][cH:24][cH:25][cH:26][cH:27]2)[N:17]([CH3:18])[C:10]1([C:8]([CH3:7])=[O:9])[c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1,water,298.15,38.4981874298237,-3.1113119843837933
4424,5056,[CH3:9][NH:10][C:11](=[O:12])[c-:13]1[nH+:14][c:15](-[c:16]2[cH:17][cH:18][cH:19][cH:20][cH:21]2)[o:22][c:23]1=[O:24].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@@H:5]([C:6](=[O:7])[O-:8])[C:13]2([C:11]([NH:10][CH3:9])=[O:12])[NH:14][C:15]1([c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[O:22][C:23]2=[O:24],water,298.15,28.646060905405182,0.4503935072996903
2866,3185,[CH3:21][NH:22][C:23](=[O:24])[C:25]([C:26]#[N:27])=[N+:28]([CH3:29])[C-:30]([C:31]([CH3:32])=[O:33])[C:34]([CH3:35])=[O:36].[F:1][C:2]([F:3])([F:4])[C:5]1([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[C:12]#[C:13][C:14]([Br:15])([Br:16])[CH2:17][CH2:18][CH2:19][CH2:20]1>>[F:1][C:2]([F:3])([F:4])[C:5]1([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[C:12]2=[C:13]([C:14]([Br:15])([Br:16])[CH2:17][CH2:18][CH2:19][CH2:20]1)[C:30]([C:31]([CH3:32])=[O:33])([C:34]([CH3:35])=[O:36])[N:28]([CH3:29])[C:25]2([C:23]([NH:22][CH3:21])=[O:24])[C:26]#[N:27],water,298.15,37.26138290230442,-19.67420726699576
266,290,[CH3:14][C:15]([C:16]#[N:17])=[O+:18][O-:19].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([O:7][CH3:8])[CH:9]2[CH:10]=[CH:11][CH:12]1[O:13]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([O:7][CH3:8])[CH:9]2[CH:10]3[CH:11]([CH:12]1[O:13]2)[O:19][O:18][C:15]3([CH3:14])[C:16]#[N:17],water,298.15,11.617678759842264,-47.69178981264044
3727,4255,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][C:8](=[O+:9][C-:10]([C:11]#[N:12])[C:13]#[N:14])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[C:10]([C:11]#[N:12])([C:13]#[N:14])[O:9][C:8]1([CH3:7])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1,water,298.15,25.315548503448767,-22.440102306534254
3022,3379,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][CH-:6][NH+:7]=[C:8]([CH3:9])[C:10](=[O:11])[NH:12][CH3:13]>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[CH:6]([CH3:5])[NH:7][C:8]1([CH3:9])[C:10](=[O:11])[NH:12][CH3:13],water,298.15,25.511386226605,-36.82109137185935
2773,3082,[CH3:1][C:2](=[O:3])[C:4]1([F:5])[C:6]#[C:7][C:8]([C:9]([F:10])([F:11])[F:12])([C:13]([F:14])([F:15])[F:16])[CH2:17][CH2:18][CH2:19][CH2:20]1.[CH3:21][NH:22][C:23](=[O:24])[C:25](=[O+:26][C-:27]([CH3:28])[C:29](=[O:30])[O:31][CH3:32])[c:33]1[cH:34][cH:35][cH:36][cH:37][cH:38]1>>[CH3:1][C:2](=[O:3])[C:4]1([F:5])[C:6]2=[C:7]([C:8]([C:9]([F:10])([F:11])[F:12])([C:13]([F:14])([F:15])[F:16])[CH2:17][CH2:18][CH2:19][CH2:20]1)[C:27]([CH3:28])([C:29](=[O:30])[O:31][CH3:32])[O:26][C:25]2([C:23]([NH:22][CH3:21])=[O:24])[c:33]1[cH:34][cH:35][cH:36][cH:37][cH:38]1,water,298.15,15.387298189037224,-55.50012621635485
2748,3054,[CH3:15][C:16](=[O:17])[C-:18]([N+:19]#[C:20][c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1.[CH3:1][NH:2][C:3](=[O:4])[CH:5]1[C:6]#[C:7][C:8]([Br:9])([Br:10])[CH2:11][CH2:12][CH2:13][CH2:14]1>>[CH3:1][NH:2][C:3](=[O:4])[CH:5]1[C:6]2=[C:7]([C:8]([Br:9])([Br:10])[CH2:11][CH2:12][CH2:13][CH2:14]1)[C:20]([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)=[N:19][C:18]2([C:16]([CH3:15])=[O:17])[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1,water,298.15,12.402786007584956,-50.25707356298151
